US06509472B2
A solution of (R)-2-amino-2-cyclohexyl-1,1-diphenylethanol, (2.95 g, 10 mmole) in toluene (34 mL) was distilled to remove (10 mL) of solvent. Additional toluene (17 mL) was added and a further 17 mL of solvent was distilled out. An additional 58 mL of toluene was added and a further 17 mL of solvent was distilled out. A further 17 mL of toluene was added followed by the addition of trimethylboroxine (0.93 mL, 6.68 mmole) at room temperature. The reaction mixture was kept at room temperature for 30 minutes and concentrated to a volume of 10 mL. Toluene (17 mL) was again added and a further 17 mL of distillate was distilled out. Additional toluene (17 mL) was added and the distillation was continued at atmospheric pressure until no more distillate was removed. Dry tetrahydrofuran was added to the residue to give a stock solution of the product (R)-4-cyclohexyl-5,5-diphenyl-2-methoxy-1,3,2-oxazaborolidine (3.2 g) in tetrahydrofuran (30 mL).

reactant | (R)-2-amino-2-cyclohexyl-1,1-diphenylethanol | 10 mmole, 2.95 g | N[C@@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C20H25NO
reactant | trimethylboroxine | 6.68 mmole, 0.93 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | toluene | 34 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-4-cyclohexyl-5,5-diphenyl-2-methoxy-1,3,2-oxazaborolidine | 3.2 g | C1(CCCCC1)[C@H]1NB(OC1(C1=CC=CC=C1)C1=CC=CC=C1)OC | C21H26BNO2
